* Subcircuit SC_SN74LS684
.subckt SC_SN74LS684 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ ? net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ ? 
* c:\fossee2\esim\library\subcircuitlibrary\sc_sn74ls684\sc_sn74ls684.cir
.include 5_and.sub
.include 3_and.sub
.include 4_OR.sub
.include 4_and.sub
* u10  net-_u1-pad17_ net-_u10-pad2_ d_inverter
* u12  net-_u1-pad15_ net-_u12-pad2_ d_inverter
* u13  net-_u1-pad16_ net-_u13-pad2_ d_inverter
* u15  net-_u1-pad14_ net-_u15-pad2_ d_inverter
* u16  net-_u1-pad11_ net-_u16-pad2_ d_inverter
* u17  net-_u1-pad12_ net-_u17-pad2_ d_inverter
* u6  net-_u1-pad8_ net-_u22-pad1_ d_inverter
* u7  net-_u1-pad9_ net-_u22-pad2_ d_inverter
* u8  net-_u1-pad6_ net-_u24-pad1_ d_inverter
* u9  net-_u1-pad7_ net-_u24-pad2_ d_inverter
* u4  net-_u1-pad4_ net-_u25-pad1_ d_inverter
* u5  net-_u1-pad5_ net-_u25-pad2_ d_inverter
* u11  net-_u1-pad18_ net-_u11-pad2_ d_inverter
* u14  net-_u1-pad13_ net-_u14-pad2_ d_inverter
* u2  net-_u1-pad2_ net-_u2-pad2_ d_inverter
* u3  net-_u1-pad3_ net-_u23-pad2_ d_inverter
* u18  net-_u10-pad2_ net-_u11-pad2_ net-_u18-pad3_ d_xnor
* u19  net-_u12-pad2_ net-_u13-pad2_ net-_u19-pad3_ d_xnor
* u20  net-_u14-pad2_ net-_u15-pad2_ net-_u20-pad3_ d_xnor
* u21  net-_u16-pad2_ net-_u17-pad2_ net-_u21-pad3_ d_xnor
* u22  net-_u22-pad1_ net-_u22-pad2_ net-_u22-pad3_ d_xnor
* u24  net-_u24-pad1_ net-_u24-pad2_ net-_u24-pad3_ d_xnor
* u25  net-_u25-pad1_ net-_u25-pad2_ net-_u25-pad3_ d_xnor
* u23  net-_u2-pad2_ net-_u23-pad2_ net-_u23-pad3_ d_xnor
x12 net-_u18-pad3_ net-_u19-pad3_ net-_u20-pad3_ net-_u21-pad3_ net-_u22-pad3_ net-_u40-pad1_ 5_and
x11 net-_u24-pad3_ net-_u25-pad3_ net-_u23-pad3_ net-_u40-pad2_ 3_and
x9 net-_u25-pad3_ net-_u24-pad3_ net-_u22-pad3_ net-_u21-pad3_ net-_u20-pad3_ net-_u37-pad1_ 5_and
x8 net-_u24-pad3_ net-_u22-pad3_ net-_u21-pad3_ net-_u20-pad3_ net-_u19-pad3_ net-_u39-pad1_ 5_and
x5 net-_u18-pad3_ net-_u25-pad1_ net-_u32-pad2_ net-_u39-pad2_ 3_and
* u39  net-_u39-pad1_ net-_u39-pad2_ net-_u39-pad3_ d_and
x7 net-_u22-pad3_ net-_u21-pad3_ net-_u20-pad3_ net-_u19-pad3_ net-_u18-pad3_ net-_u36-pad1_ 5_and
* u35  net-_u24-pad1_ net-_u30-pad2_ net-_u35-pad3_ d_and
* u36  net-_u36-pad1_ net-_u35-pad3_ net-_u36-pad3_ d_and
x1 net-_u21-pad3_ net-_u20-pad3_ net-_u19-pad3_ net-_u38-pad1_ 3_and
x3 net-_u18-pad3_ net-_u22-pad1_ net-_u31-pad2_ net-_u38-pad2_ 3_and
* u38  net-_u38-pad1_ net-_u38-pad2_ net-_u38-pad3_ d_and
x6 net-_u20-pad3_ net-_u19-pad3_ net-_u18-pad3_ net-_u16-pad2_ net-_u26-pad2_ net-_x14-pad1_ 5_and
x4 net-_u19-pad3_ net-_u18-pad3_ net-_u14-pad2_ net-_u27-pad2_ net-_x14-pad2_ 4_and
x2 net-_u18-pad3_ net-_u12-pad2_ net-_u28-pad2_ net-_x14-pad3_ 3_and
* u34  net-_u10-pad2_ net-_u29-pad2_ net-_u34-pad3_ d_and
x10 net-_u19-pad3_ net-_u18-pad3_ net-_u2-pad2_ net-_u33-pad2_ net-_u37-pad2_ 4_and
* u37  net-_u37-pad1_ net-_u37-pad2_ net-_u37-pad3_ d_and
* u33  net-_u23-pad2_ net-_u33-pad2_ d_inverter
* u32  net-_u25-pad2_ net-_u32-pad2_ d_inverter
* u30  net-_u24-pad2_ net-_u30-pad2_ d_inverter
* u31  net-_u22-pad2_ net-_u31-pad2_ d_inverter
* u26  net-_u17-pad2_ net-_u26-pad2_ d_inverter
* u27  net-_u15-pad2_ net-_u27-pad2_ d_inverter
* u28  net-_u13-pad2_ net-_u28-pad2_ d_inverter
* u29  net-_u11-pad2_ net-_u29-pad2_ d_inverter
* u40  net-_u40-pad1_ net-_u40-pad2_ net-_u1-pad19_ d_nand
x13 net-_u37-pad3_ net-_u39-pad3_ net-_u36-pad3_ net-_u38-pad3_ net-_u41-pad1_ 4_OR
x14 net-_x14-pad1_ net-_x14-pad2_ net-_x14-pad3_ net-_u34-pad3_ net-_u41-pad2_ 4_OR
* u41  net-_u41-pad1_ net-_u41-pad2_ net-_u1-pad1_ d_nor
a1 net-_u1-pad17_ net-_u10-pad2_ u10
a2 net-_u1-pad15_ net-_u12-pad2_ u12
a3 net-_u1-pad16_ net-_u13-pad2_ u13
a4 net-_u1-pad14_ net-_u15-pad2_ u15
a5 net-_u1-pad11_ net-_u16-pad2_ u16
a6 net-_u1-pad12_ net-_u17-pad2_ u17
a7 net-_u1-pad8_ net-_u22-pad1_ u6
a8 net-_u1-pad9_ net-_u22-pad2_ u7
a9 net-_u1-pad6_ net-_u24-pad1_ u8
a10 net-_u1-pad7_ net-_u24-pad2_ u9
a11 net-_u1-pad4_ net-_u25-pad1_ u4
a12 net-_u1-pad5_ net-_u25-pad2_ u5
a13 net-_u1-pad18_ net-_u11-pad2_ u11
a14 net-_u1-pad13_ net-_u14-pad2_ u14
a15 net-_u1-pad2_ net-_u2-pad2_ u2
a16 net-_u1-pad3_ net-_u23-pad2_ u3
a17 [net-_u10-pad2_ net-_u11-pad2_ ] net-_u18-pad3_ u18
a18 [net-_u12-pad2_ net-_u13-pad2_ ] net-_u19-pad3_ u19
a19 [net-_u14-pad2_ net-_u15-pad2_ ] net-_u20-pad3_ u20
a20 [net-_u16-pad2_ net-_u17-pad2_ ] net-_u21-pad3_ u21
a21 [net-_u22-pad1_ net-_u22-pad2_ ] net-_u22-pad3_ u22
a22 [net-_u24-pad1_ net-_u24-pad2_ ] net-_u24-pad3_ u24
a23 [net-_u25-pad1_ net-_u25-pad2_ ] net-_u25-pad3_ u25
a24 [net-_u2-pad2_ net-_u23-pad2_ ] net-_u23-pad3_ u23
a25 [net-_u39-pad1_ net-_u39-pad2_ ] net-_u39-pad3_ u39
a26 [net-_u24-pad1_ net-_u30-pad2_ ] net-_u35-pad3_ u35
a27 [net-_u36-pad1_ net-_u35-pad3_ ] net-_u36-pad3_ u36
a28 [net-_u38-pad1_ net-_u38-pad2_ ] net-_u38-pad3_ u38
a29 [net-_u10-pad2_ net-_u29-pad2_ ] net-_u34-pad3_ u34
a30 [net-_u37-pad1_ net-_u37-pad2_ ] net-_u37-pad3_ u37
a31 net-_u23-pad2_ net-_u33-pad2_ u33
a32 net-_u25-pad2_ net-_u32-pad2_ u32
a33 net-_u24-pad2_ net-_u30-pad2_ u30
a34 net-_u22-pad2_ net-_u31-pad2_ u31
a35 net-_u17-pad2_ net-_u26-pad2_ u26
a36 net-_u15-pad2_ net-_u27-pad2_ u27
a37 net-_u13-pad2_ net-_u28-pad2_ u28
a38 net-_u11-pad2_ net-_u29-pad2_ u29
a39 [net-_u40-pad1_ net-_u40-pad2_ ] net-_u1-pad19_ u40
a40 [net-_u41-pad1_ net-_u41-pad2_ ] net-_u1-pad1_ u41
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u18 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u19 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u20 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u21 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u22 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u24 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u25 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xnor, NgSpice Name: d_xnor
.model u23 d_xnor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u29 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, NgSpice Name: d_nand
.model u40 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, NgSpice Name: d_nor
.model u41 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends SC_SN74LS684